* E:\git\Simulacion-de-circuitos-electronicos\docs\Ejemplos\Mas-conceptos\E9-uA741.asc
V1 V+ 0 15V
V2 V- 0 -15V
V3 ent 0 SINE(0 1.5V 1kHz) Rser=50
XU1 0 N001 V+ V- sal uA741
R1 sal N001 10k
R2 N001 ent 1k
RL sal 0 10k
C1 sal 0 100p
.TEMP 25
;tran 5u
.ac dec 10 100Hz 2MEGHz
.lib Z:\home\fede\Documentos\LTspiceXVII\lib\sym\Mis_Componentes\uA741.sub
.backanno
.end
